US07504398B2
A mixture of 1,3,6-trimethyl-5-nitro-1H-pyrimidine-2,4dione (3.00 g, 15.06 mmol), benzaldehyde (1.58 ml, 15.56 mmol), piperidine (1.41 ml, 15.56 mmol) and a 3 Å molecular sieve (6.00 g) in ethanol (70 ml) was refluxed for 4 hours, filtered and the solid was treated with a mixture of chloroform and methanol. The resulting suspension was filtered again and the filtrates were evaporated. The residue was triturated with diethyl ether and the precipitate collected by filtration and dried under vacuum to yield 1,3-dimethyl-5-nitro-6-((E)styryl)-1H-pyrimidine-2,4-dione (2.61 g, 60%) as a yellow solid.

reactant | 1,3,6-trimethyl-5-nitro-1H-pyrimidine-2,4dione | 15.06 mmol, 3.00 g | CN1C(N(C(C(=C1C)[N+](=O)[O-])=O)C)=O | C7H9N3O4
reactant | benzaldehyde | 15.56 mmol, 1.58 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 15.56 mmol, 1.41 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 1,3-dimethyl-5-nitro-6-((E)styryl)-1H-pyrimidine-2,4-dione | 2.61 g, 60% | CN1C(N(C(C(=C1\C=C\C1=CC=CC=C1)[N+](=O)[O-])=O)C)=O | C14H13N3O4
